US04688153
To 15.3 g of isoamyliodide and 10 g of isoquinoline placed in a four-necked flask equipped with a reflux condenser and mechanical stirrer was added 30 ml of ethanol. The mixture was reacted for 3 hours under reflux. When the reaction was completed, ethanol was removed from the reaction mixture under reduced pressure, the residue was washed 2-times with 45 ml of ethyl ether. 23.0 g of N-isoamylisoquinolinium iodide was obtained as yellow crystals. Subsequently, into a four-necked flask equipped with a reflux condenser and mechanical stirrer was placed 8 g of TCNQ and 280 ml of acetonitrile, and the TCNQ was dissolved in the acetonitrile under reflux. To the flask was added a solution of 9.6 g of N-isoamylisoquinolinium iodide in 40 ml of acetonitrile, and the mixture was reacted for 20 minutes under reflux. The reaction mixture was cooled to 5° C., separated black needles were filtered out and washed 2-times with 100 ml of methanol. 10.4 g of charge transfer complex of N-isoamylisoquinolinium TCNQ was obtained. The infra-red spectrum of the complex was shown in FIG. 3. The specific resistance of the complex measured by the same method as that described in Example 1 was 3.6 Ωcm.

reactant | isoamyliodide | 15.3 g | C(CC(C)C)I | C5H11I
reactant | isoquinoline | 10 g | C1=NC=CC2=CC=CC=C12 | C9H7N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-isoamylisoquinolinium iodide | 23.0 g | [I-].C(CC(C)C)[N+]1=CC2=CC=CC=C2C=C1 | InChI=1S/C14H18N.HI/c1-12(2)7-9-15-10-8-13-5-3-4-6-14(13)11-15;/h3-6,8,10-12H,7,9H2,1-2H3;1H/q+1;/p-1
